US08138177B2
Step 1. 3-(3-methylbutyl)-1,3-dihydro-2H-imidazo[4,5-c]pyridin-2-one
The title compound was prepared according to the procedure described in the literature (Meth-Cohn, O.; Smith, D. I. J.C.S. Perkin Trans. 1, 1982, 261-270.; Vernin G. et al. J. Heterocyclic Chem. 1981, 18, 85-89.) from 1-bromo-3-methylbutane and 1-isopropenyl-1,3-dihydro-2H-imidazo[4,5-c]pyridin-2-one (Israel, M.; Jones, L. C. J. Heterocyclic Chem. 1971, 8, 797.

reactant | 1-bromo-3-methylbutane | BrCCC(C)C | C5H11Br
reactant | 1-isopropenyl-1,3-dihydro-2H-imidazo[4,5-c]pyridin-2-one | C(=C)(C)N1C(NC=2C=NC=CC21)=O | C9H9N3O
product | 3-(3-methylbutyl)-1,3-dihydro-2H-imidazo[4,5-c]pyridin-2-one | CC(CCN1C(NC2=C1C=NC=C2)=O)C | C11H15N3O
